US04431653
A solution of 4-[2-(1-ethyl-4,5-dihydro-imidazol-2-yl)ethyl]piperidine (0.66 g, 0.0031 M) in methanol (6 ml) and dimethylformamide dimethylacetal (6 ml) was heated at 90° C. for 6 hrs. Removal of the excess of dimethylformamide dimethylacetal gave 4-[2-(1-ethyl-4,5-dihydro-imidazol-2-yl)ethyl]-1-piperidine carboxaldehyde dimethylacetal. The solution of the piperidine carboxaldehyde dimethylacetal in chloroform (5 ml) was then added to a mixture of 6-aminopenicillanic acid (0.6 g, 0.0028 M) and diisopropylethylamine (0.5 ml) in chloroform (6 ml) at 0° C. The reaction was stirred at 0° C. for 1 hr and room temperature for 3 hrs. The solvent was removed and water (10 ml) was added. After being washed with ethylacetate, the aqueous solution, acidified from about pH 3 to about 3.5 was purified on Sephadex LH B 20 columns to give [2S-(2-alpha,5alpha, 6beta)]-6-[[[4-[2-(1-ethyl-4,5-dihydro-1H-imidazol-2-yl)ethyl]-1-piperidinyl]methylene]amino]-3,3-dimethyl-7-oxo-4-thia-1-azabicyclo[3.2.0]heptane-2-carboxylic acid hydrochloride (0.46 g, 35% yield).

reactant | 4-[2-(1-ethyl-4,5-dihydro-imidazol-2-yl)ethyl]piperidine | 0.0031 M, 0.66 g | C(C)N1C(=NCC1)CCC1CCNCC1 | C12H23N3
reactant | dimethylformamide dimethylacetal | 6 ml | COC(N(C)C)OC | C5H13NO2
solvent | methanol | 6 ml | CO | CH4O
product | 4-[2-(1-ethyl-4,5-dihydro-imidazol-2-yl)ethyl]-1-piperidine carboxaldehyde dimethylacetal | COC(N1CCC(CC1)CCC=1N(CCN1)CC)OC | C15H29N3O2
